US07112594B2
N-(3-cyano-4-neopentyloxyphenyl)-5-fluoro-2-methyl-1H-indole-3-carboxamide ½ hydrate
By the reaction and treatment in the same manner as in Example 6 using 5-fluoro-2-methyl-1H-indole-3-carboxylic acid (1 g) and 5-amino-2-neopentyloxybenzonitrile (1.1 g), the title compound (0.6 g) was obtained. melting point: 169-171° C.

reactant | 5-fluoro-2-methyl-1H-indole-3-carboxylic acid | 1 g | FC=1C=C2C(=C(NC2=CC1)C)C(=O)O | C10H8FNO2
reactant | 5-amino-2-neopentyloxybenzonitrile | 1.1 g | NC=1C=CC(=C(C#N)C1)OCC(C)(C)C | C12H16N2O
product | N-(3-cyano-4-neopentyloxyphenyl)-5-fluoro-2-methyl-1H-indole-3-carboxamide | 0.6 g | C(#N)C=1C=C(C=CC1OCC(C)(C)C)NC(=O)C1=C(NC2=CC=C(C=C12)F)C | C22H22FN3O2
